US08247401B2
Step D: 5-(2,2-Difluoro-1-hydroxyethyl)-2′,4′-difluoro-N-[(1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethyl]biphenyl-3-carboxamide
To a solution of 5-(2,2-difluoro-1-hydroxyethyl)-2′,4′-difluorobiphenyl-3-carboxylic acid (0.25 g, 0.80 mmol) in N,N-dimethylformamide (2.7 mL) were added (1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethanamine (0.18 g, 0.88 mmol), EDC (0.27 g, 1.39 mmol), HOAT (51.1 mg, 0.40 mmol) and triethylamine (0.67 mL, 4.77 mmol). The mixture was stirred at 50 C. After 2 h, saturated sodium bicarbonate was added the mixture was extracted with dichloromethane (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→85% dichloromethane/methanol). Product obtained was not pure therefore it was purified again by reverse phase chromatography (C-18, 95% water/acetonitrile→30% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (201 mg). HRMS 424.1283 (M+1). 1H NMR δ (ppm) (DMSO-d6): 9.28 (1H, d, J=7.3 Hz), 8.01 (2H, s), 7.76 (1H, s), 7.66 (1H, dd, J=15.6, 9.0 Hz), 7.43 (1H, m), 7.26 (1H, m), 6.11 (1H, dt, J=11.2, 0.7 Hz), 5.40 (1H, m), 4.93 (1H, m), 2.33 (3H, s), 1.61 (3H, d, J=7.3 Hz).

reactant | 5-(2,2-difluoro-1-hydroxyethyl)-2′,4′-difluorobiphenyl-3-carboxylic acid | 0.80 mmol, 0.25 g | FC(C(O)C=1C=C(C=C(C1)C1=C(C=C(C=C1)F)F)C(=O)O)F | C15H10F4O3
reactant | (1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethanamine | 0.88 mmol, 0.18 g | CC1=NOC(=N1)[C@@H](C)N | C5H9N3O
reactant | EDC | 1.39 mmol, 0.27 g
reactant | HOAT | 0.40 mmol, 51.1 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | triethylamine | 4.77 mmol, 0.67 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 2.7 mL | CN(C=O)C | C3H7NO
product | 5-(2,2-Difluoro-1-hydroxyethyl)-2′,4′-difluoro-N-[(1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethyl]biphenyl-3-carboxamide | 201 mg | FC(C(O)C=1C=C(C=C(C1)C1=C(C=C(C=C1)F)F)C(=O)N[C@H](C)C1=NC(=NO1)C)F | C20H17F4N3O3
